US08563541B2
Step 2: 2,6-dichloro-4-hydroxybenzaldehyde
A solution of 2.50 M n-butyllithium in hexane (13.3 mL) was added to a stirred solution of (3,5-dichlorophenoxy)(triisopropyl)silane (10.1 g, 31.6 mmol) in THF (40 mL) under an atmosphere of nitrogen at −78° C. After stirring for 45 min at −78° C., DMF (5 mL) was added slowly. The mixture was allowed to warm to −10° C. After hydrolysis with 2 N HCl, the layers were separated and the aqueous layer separated and extracted with ethyl acetate twice. The combined organic solutions were dried over Na2SO4, filtered and concentrated. To the residue was added hexane (30 mL) and the precipitate was filtered and washed with hexane to give the desired product as a white precipitate. (5.50 g, 91%). LCMS for C2H5Cl2O2(M+H)+: m/z=191.

reactant | n-butyllithium | 2.50 M | C(CCC)[Li]
reactant | (3,5-dichlorophenoxy)(triisopropyl)silane | 31.6 mmol, 10.1 g | ClC=1C=C(O[Si](C(C)C)(C(C)C)C(C)C)C=C(C1)Cl | C15H24Cl2OSi
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
reactant | HCl | 2 N | Cl | ClH
solvent | hexane | 13.3 mL | CCCCCC | C6H14
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 2,6-dichloro-4-hydroxybenzaldehyde | ClC1=C(C=O)C(=CC(=C1)O)Cl | C7H4Cl2O2
